US07923561B2
rac-1-Methyl-1H-indole-4-sulfonic acid [2-(7-methoxy-indan-1-ylamino)-quinolin-5-yl]-amide
The title compound, MS: m/e=499.0 (M+H+), was prepared in accordance with the general method of example 45 from 5-nitro-2-chloroquinoline, rac-7-methoxy-indane-1-ylamine and 1-methyl-1H-indole-4-sulfonylchloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | rac-7-methoxy-indane-1-ylamine | COC=1C=CC=C2CCC(C12)N | C10H13NO
reactant | 1-methyl-1H-indole-4-sulfonylchloride | CN1C=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H8ClNO2S
product | rac-1-Methyl-1H-indole-4-sulfonic acid [2-(7-methoxy-indan-1-ylamino)-quinolin-5-yl]-amide | COC=1C=CC=C2CCC(C12)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C=1C=2C=CN(C2C=CC1)C | C28H26N4O3S
